US04337197
(A) N2 -(Phenylacetyl)-N-[(phenylmethyl)oxy]-L-serinamide
N-Phenylacetyl-L-serine (8.8 g), 1-hydroxybenzotriazole hydrate (6.03 g) and o-benzylhydroxylamine (4.84 g) are dissolved in tetrahydrofuran (450 ml) and chilled to 0° C. A solution of dicyclohexylcarbodiimide (8.1 g), in tetrahydrofuran (50 ml) is added over a 0.5 hour period. The reaction is allowed to warm to 26° C. and stir for about 16 hours. The mixture is filtered, and the filtrate concentrated under reduced pressure to a semi-solid residue. The addition of ethyl acetate (50 ml) causes crystallization. The solids are collected and dried (6.9 g, melting point 150°-151° C.).

reactant | N-Phenylacetyl-L-serine | 8.8 g | C1(=CC=CC=C1)CC(=O)N[C@@H](CO)C(=O)O | C11H13NO4
reactant | 1-hydroxybenzotriazole hydrate | 6.03 g | O.ON1N=NC2=C1C=CC=C2
reactant | dicyclohexylcarbodiimide | 8.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | tetrahydrofuran | 450 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N2 (Phenylacetyl)-N-[(phenylmethyl)oxy]-L-serinamide | N#N.C1(=CC=CC=C1)CC(=O)N[C@@H](CO)C(=O)NOCC1=CC=CC=C1 | InChI=1S/C18H20N2O4.N2/c21-12-16(19-17(22)11-14-7-3-1-4-8-14)18(23)20-24-13-15-9-5-2-6-10-15;1-2/h1-10,16,21H,11-13H2,(H,19,22)(H,20,23);/t16-;/m0./s1
